US07994185B2
2,5-difluoro-N-{2-fluoro-3-[5-[2-(3-hydroxy-3-methylbutyl)-4-pyrimidinyl]-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 247 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.2 g, 0.352 mmol) and 2-Methyl-3-buten-2-ol (0.110 ml, 1.056 mmol), the title compound was obtained as a solid (83 mg, 38% yield). 1H NMR (400 MHz, DMSO-d6) d ppm 10.76 (s, 1H), 8.28 (d, J=5.49 Hz, 1H), 7.53 (m, 3H), 7.43 (m, 1H), 7.35 (d, J=6.04 Hz, 1H), 7.29 (t, J=7.69 Hz, 1H), 6.31 (d, J=5.49 Hz, 1H), 4.28 (s, 1H), 3.71 (m, 4H), 3.50 (m, 4H), 2.81 (m, 2H), 1.77 (m, 2H), 1.12 (s, 6H); MS (ESI): 620 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.352 mmol, 0.2 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H17ClF3N5O3S2
reactant | 2-Methyl-3-buten-2-ol | 1.056 mmol, 0.110 ml | CC(C)(C=C)O | C5H10O
product | 2,5-difluoro-N-{2-fluoro-3-[5-[2-(3-hydroxy-3-methylbutyl)-4-pyrimidinyl]-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C=C(C=C1)F)S(=O)(=O)NC1=C(C(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)CCC(C)(C)O)N1CCOCC1)F | C28H28F3N5O4S2
